Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
PE
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ ___ woman w/ hx of pulmonary fibrosis possibly 
UIP/IPF, thymoma s/p resection w/ associated myasthenia ___ 
(now improved), HTN, DM, who is found to have a PE on outpatient 
CTA.

Patient reports that she was diagnosed with pulmonary fibrosis 
in ___ and went to see ___ pulmonary for ___ opinion. She has 
chronic dyspnea on exertion although notes been having increased 
cough with occasional hemoptysis starting ___ weeks ago. She 
reports that she is unable to walk more than 50 feet without
getting winded as well. She went to ___ pulmonary who ordered 
CTA, which revealed PE as well as pulmonary fibrosis. Patient is 
not on home O2. She does note she was in a prolonged car ride, 
~4 hours long in which she did not get up and move around. Has 
had colonoscopy and mammography. Reports no previous hx of blood 
clots and no family hx. She denies any recent fevers, chills, 
chest pain, palpitations, N/V, lightheadedness, abd pain, 
diarrhea, dysuria. She does note pain in her left thigh that 
started ___ weeks ago

In the ED:
Initial vital signs were notable for: 97.8 68 162/74 18 98% RA

Labs were unremarkable.

Studies performed include:
CTA:
Pulmonary emboli in the left anterior upper lobe segment as well
as left superior lingular segment. 
Dilated pulmonary artery as well as dilatation of the right
ventricle suggest pulmonary hypertension and pulmonary strain.
Please note that underlying UIP/IPF may contribute to this. 
UIP/IPF pulmonary fibrotic changes are noted and correlation 
with
outside/prior imaging is advised to assess stability. 
Indeterminate 7 mm part solid nodule in the right lower lobe.

___:
Nonocclusive thrombosis in one of the paired peroneal veins in
the left lower extremity compatible with deep venous thrombosis.

Patient was given: heparin gtt

Vitals on transfer: 59 153/70 18 99% RA

Upon arrival to the floor, she reports history as above. She is 
comfortable.
 
Past Medical History:
1.  Pulmonary fibrosis, status post lung biopsy, ?UIP/IPF
2.  Diabetes, on insulin
3.  History of myasthenia ___
4.  History of thymoma status post resection
5.  Hypertension

 
Social History:
___
Family History:
No known lung or autoimmune disease. No family history of 
bleeding or clotting disorders
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 98 190/81 65 95% RA
GENERAL: laying comfortably in NAD
HEENT: PERRL. EOMI. Nonicteric sclera
NECK: no JVP noted
CARDIAC: RRR. No mrg
LUNGS: Bibasilar crackles diffusely besides upper lungs
ABDOMEN: +BS. Soft, NTND
EXTREMITIES: No ___ edema. WWP
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation.  AOx3.

DISCHARGE PHYSICAL EXAM:
=========================
VS:
24 HR Data (last updated ___ @ 1211)
    Temp: 97.3 (Tm 98.7), BP: 136/64 (131-158/61-77), HR: 57 
(57-67), RR: 18, O2 sat: 90% ambulating/stairs% (90% 
ambulating/stairs-97), O2 delivery: RA  
GENERAL: NAD, laying comfortably in bed
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: Diffuse crackles and slight inspiratory wheezes, worst in 
lung bases
GI: abdomen soft, nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no lower extremity edema, no calf or thigh 
tenderness
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric
DERM: Warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
====
LABS
====
___ 05:55PM BLOOD cTropnT-<0.01 proBNP-94
___ 05:55PM BLOOD WBC-4.4 RBC-4.38 Hgb-13.8 Hct-40.5 MCV-93 
MCH-31.5 MCHC-34.1 RDW-13.1 RDWSD-44.2 Plt ___
___ 05:55PM BLOOD ___ PTT-27.3 ___
___ 04:00PM BLOOD UreaN-17 Creat-0.9 Na-143 K-4.7 Cl-102 
HCO3-29 AnGap-12
___ 05:55PM BLOOD cTropnT-<0.01 proBNP-94
___ 08:06AM BLOOD Calcium-9.4 Phos-3.9 Mg-1.7

=====
ECHO
=====
___
Normal biventricular wall thicknesses, cavity sizes, and 
regional/global systolic function. Mild mitral regurgitation 
with normal valve morphology. Mild aortic regurgitation. Mild 
pulmonary artery systolic hypertension.
 
Brief Hospital Course:
___ ___ woman w/ hx of pulmonary fibrosis possibly 
UIP/IPF, thymoma s/p resection w/ associated myasthenia ___ 
(now improved), HTN, DM, and ___ weeks of hemoptysis who was 
found to have a PE on outpatient CTA.

ACTIVE ISSUES:
==============
#Pulmonary Embolism
#DVT
#Hemoptysis
Patient presented as an outpatient with new hemoptysis and 
pleuritic back pain in the setting of underlying lung disease, 
ultimately found to have two segmental LUL PEs on CTA and 
non-occlusive LLE DVT without clear cause and was thought to be 
an unprovoked PE. She was hemodynamically stable on room air, 
but did have possible evidence of right heart strain on CTA, 
with dilation of the left pulmonary artery and right ventricle. 
However, this finding is hard to interpret in the setting of 
chronic pulmonary fibrosis and possible pulmonary hypertension. 
She had normal troponin and BNP. She received a TTE which showed 
no evidence of right heart ___ was started on a heparin 
drip while in the hospital which was transitioned to apixaban 
prior to discharge. She was instructed to continue to take the 
apixaban for at least ___ months post-discharge and to follow-up 
with her primary care doctor.

#Incidental lung nodule
7mm nodule found incidentally on CTA. She has a follow-up 
appointment with ___ pulmonology in ___. They are 
aware of the nodule and recommend a repeat CT scan in 3 months.

CHRONIC ISSUES:
================
#Pulmonary fibrosis
Is followed at ___ for medical care, but received ___ opinion at 
___. She has a follow-up appointment with ___ 
___ in ___.

#DM
Her home regimen was continued while inpatient.

#HTN
Her home metoprolol was continued while inpatient.

TRANSITIONAL ISSUES
====================
[] Will require follow-up of 7mm pulmonary nodule found 
incidentally on CTA. Per pulmonary should repeat CT in 3 months. 

[] Started on apixaban 10 mg PO BID, should decrease to 5 mg PO 
BID on ___.
[] PE appears to be unprovoked and would consider prolonged 
anticoagulation. 

#CODE: Has MOLST. Is DNR/DNI
#CONTACT:Next of Kin: ___ 
 Relationship: DAUGHTER 
 Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Glargine 17 Units Bedtime
Humalog 6 Units Breakfast
Humalog 6 Units Dinner

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
On ___, decrease to 5 mg BID 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*70 Tablet Refills:*0 
2.  Glargine 17 Units Bedtime
Humalog 6 Units Breakfast
Humalog 6 Units Dinner 
3.  Metoprolol Succinate XL 50 mg PO DAILY  
4. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until stopping Apixaban

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

WHY DID YOU COME TO THE HOSPITAL?
- You were coughing blood and saw your outpatient lung doctor 
who had you get a picture of your lungs that showed a blood 
clot.

WHAT HAPPENED WHEN YOU WERE HERE?
- You received blood thinning medicine to help the blood clot in 
your lungs resolve. 

WHAT TO DO WHEN YOU LEAVE?
- Follow-up with your primary care doctor within 1 week.
- Follow-up with your lung doctor as scheduled.
- Take your new blood thinning medicine every day as below.
- Please come back to the hospital if you cough up any blood. 

Best wishes,
Your ___ Team
 
Followup Instructions:
___